US08835429B2
1-(4-((dimethylamino)methyl)phenyl)-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea
A procedure analogous to that used for the preparation of 1-cyclopropyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea was used, using 4-((dimethylamino)methyl)aniline as the amine component.

reactant | 1-cyclopropyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea | C1(CC1)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H23BN2O3
reactant | 4-((dimethylamino)methyl)aniline | CN(C)CC1=CC=C(N)C=C1 | C9H14N2
product | 1-(4-((dimethylamino)methyl)phenyl)-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea | CN(C)CC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C22H30BN3O3
